US05658933
3-Benzyloxypyridine-2-carboxylic acid N-(((1-octyloxy)carbonyl)methyl)amide
1.1 g (5 mmol) of 3-benzyloxypyridine-2-carboxylic acid were condensed with glycine 1-octyl ester tosylate in analogy with Example 147. 1.3 g of the title compound were obtained, without column chromatography, as a pale brown oil, 1H NMR (DMSO): δ=5.24 (s, CH2 -benzyl).

reactant | 3-benzyloxypyridine-2-carboxylic acid | 5 mmol, 1.1 g | C(C1=CC=CC=C1)OC=1C(=NC=CC1)C(=O)O | C13H11NO3
reactant | glycine 1-octyl ester tosylate | S(=O)(=O)(O)C1=CC=C(C)C=C1.C(CCCCCCC)OC(CN)=O
product | 3-Benzyloxypyridine-2-carboxylic acid N-(((1-octyloxy)carbonyl)methyl)amide | 1.3 g | C(CCCCCCC)OC(=O)CNC(=O)C1=NC=CC=C1OCC1=CC=CC=C1 | C23H30N2O4
